US04758369
Preparation of 4-(methylsulfonyl)peroxybenzoic acid
A stirred mixture of 5 g of 4-(methylsulfonyl)benzoic acid and 50 mL of methanesulfonic acid froze when it was cooled in an ice bath. The ice bath was removed and when the mixture was partially melted, stirring was resumed and the addition of 2.83 g of 90% hydrogen peroxide was started. The 90% hydrogen peroxide was added gradually over ten minutes. When the addition of the hydrogen peroxide was completed, the reaction mixture was still partially frozen. A water bath of cold tap water was used to warm the reaction mixture. The temperature of the reaction mixture rose briefly to 28° C. One hour after the addition of the hydrogen peroxide was started, the reaction mixture was heated for 70 minutes within a temperature range of 40° C.-45° C. The stirred reaction mixture was then cooled in an ice bath. A solid precipitated from solution. When the temperature of the reaction mixture was between 10° C.-15° C., the solid product was filtered from solution. A second fraction of solid product was collected when the filtrate was poured onto ice prepared from deionized water and the solid which formed was filtered away from solution. Fraction one was washed four times with 60 mL each time of cold deionized water. Fraction two was washed four times with 150 mL each time of cold deionized water. Both fractions of the solid product were very easy to wash and to isolate by filtration. The two fractions were each transferred to a watchglass and dried overnight. The dried solids were fine, dry powders.

reactant | 4-(methylsulfonyl)benzoic acid | 5 g | CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O4S
reactant | methanesulfonic acid | 50 mL | CS(=O)(=O)O | CH4O3S
product | 4-(methylsulfonyl)peroxybenzoic acid | CS(=O)(=O)C1=CC=C(C(=O)OO)C=C1 | C8H8O5S
